US05091384
Preparation of 3,7-diazabicyclo[3.3.0]oct-1(5)-ene dihydrobromide
60 ml of 48% hydrobromic acid and 7 g of phenol were added to 10.8 g 3,7-bis-p-toluenesulfonyl-3,7-diazabicyclo [3.3.0]oct-1(5)-ene, prepared in Preparation 1. The mixture was refluxed for 4 hours and cooled to room temperature. The aqueous phase was separated by adding 100 ml of chloroform and 50 ml of water. The aqueous phase was washed with chloroform (100 ml×4) and decolorized with active carbon. The aqueous phase was concentrated under vacuum and the remained solid was washed with 1:1 methanol-ethyl ether solvent. 5 g of the title compound was obtained as white solid (yield 71%).

reactant | phenol | 7 g | C1(=CC=CC=C1)O | C6H6O
reactant | 3,7-bis-p-toluenesulfonyl-3,7-diazabicyclo [3.3.0]oct-1(5)-ene | 10.8 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC=2CN(CC2C1)S(=O)(=O)C1=CC=C(C=C1)C)C | C20H22N2O4S2
reactant | hydrobromic acid | 60 ml | Br | BrH
product | 3,7-diazabicyclo[3.3.0]oct-1(5)-ene dihydrobromide | 5 g | Br.Br.C1=2CNCC2CNC1 | InChI=1S/C6H10N2.2BrH/c1-5-2-8-4-6(5)3-7-1;;/h7-8H,1-4H2;2*1H
